US07435731B2
Step 7: Preparation of 6-(2,4-difluorophenoxy)-4-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1,4-dihydro-pyrazolo[4,3-b]pyridin-5-one
To a 0° C. solution of 6-(2,4-difluorophenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1,4-dihydro-pyrazolo[4,3-b]pyridin-5-one (98 mg, 0.249 mmol) in dimethylformamide (1 mL) was added sodium hydride (60% dispersion in oil, Aldrich) (15 mg, 1.5 eq) and the resulting mixture was stirred at for 30 minutes, after which methyl iodide (25 μL, 1.5 eq) was added and the mixture was stirred additional 1 hour with warming from 0° C. to room temperature. The reaction mixture was diluted with ethyl acetate (35 mL) and water (25 mL). The organic layer was separated, washed with water (2×25 mL) and brine (1×25 mL), dried over magnesium sulfate, filtered and concentrated to give the title compound as a tan powder (118 mg, (M+H)+=408).

reactant | 6-(2,4-difluorophenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1,4-dihydro-pyrazolo[4,3-b]pyridin-5-one | 0.249 mmol, 98 mg | FC1=C(OC2=CC3=C(NC2=O)C=NN3COCC[Si](C)(C)C)C=CC(=C1)F | C18H21F2N3O3Si
reactant | sodium hydride | 15 mg, 1.5 eq | [H-].[Na+]
reactant | methyl iodide | 25 μL, 1.5 eq | CI | CH3I
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 25 mL | O | H2O
product | 6-(2,4-difluorophenoxy)-4-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1,4-dihydro-pyrazolo[4,3-b]pyridin-5-one | 118 mg | FC1=C(OC2=CC3=C(N(C2=O)C)C=NN3COCC[Si](C)(C)C)C=CC(=C1)F | C19H23F2N3O3Si
